US09359338B2
Step 2: Synthesis of 5-(1,1-difluoroethyl)-N-(diphenylmethylene)pyridin-3-amine
Add benzophenone imine (215 mg, 1.19 mmol), cesium carbonate (640 mg, 1.96 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 98 mg, 0.16 mmol), tris(dibenzylideneacetone)dipalladium [Pd2(dba)3, 90 mg, 0.098 mmol] to the solution of 3-bromo-5-(1,1-difluoroethyl)pyridine (200 mg, 0.9 mmol) in dioxane (10 mL), stir the resulting mixture under nitrogen atmosphere at 100° C. for 16 hrs. Cool the reaction mixture to room temperature, filter off the solid, concentrate the filtrate under reduced pressure, purify by flash chromatography (silica gel, EtOAc:PE=2:1) to yield the title compound (296 mg, 92%). MS: (M+1): 323.

reactant | benzophenone imine | 1.19 mmol, 215 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 1.96 mmol, 640 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.16 mmol, 98 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 3-bromo-5-(1,1-difluoroethyl)pyridine | 0.9 mmol, 200 mg | BrC=1C=NC=C(C1)C(C)(F)F | C7H6BrF2N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.098 mmol, 90 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(1,1-difluoroethyl)-N-(diphenylmethylene)pyridin-3-amine | 296 mg, 92% | FC(C)(F)C=1C=C(C=NC1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16F2N2
